US07300936B2
(2R)-2-[N-(4-Chlorobenzenesulfonyl)-N-(4-{[(2-dimethylamino-acetyl)-methyl-amino ]-methyl}-benzyl)-amino]-4-methyl-pentanoic acid amide (EXAMPLE 272):
(2R)-2-[N-(4-Chlorobenzenesulfonyl)-N-(4-methylaminomethyl-benzyl)-amino]-4-methyl-pentanoic acid amide (75 mg, 0.17 mmol), (α-dimethylamino)acetic acid (18 mg, 0.17 mmol), 1-hydroxybenzotriazole (24 mg, 0.17 mmol), and 1-[3-(dimethylamino)propyl]-3-ethylcarbodiimide hydrochloride (33 mg, 0.17 mmol) were combined in 3 mL CH2Cl2 and stirred overnight. The reaction mixture was diluted with 5 mL CH2Cl2 and washed with 1 N NaOH and brine. The organic phase was dried by filtering through cotton and the solvent was removed in vacuo. Purification via preparative HPLC afforded the title compound (61 mg) in 68% yield. MS (ESI), 523.4 (M+H)+ 1H NMR (CDCl3) δ8.02 (d, 2H, J=8.0), 7.71 (d, 2H, J=8.0), 7.37 (d, 2H, J=8.0), 7.28 (d, 2H, J=8.0), 6.23 (br s, 1H), 5.51 (br s, 1H), 4.46 (s, 2H), 4.70 (d, 1H, Jab=16), 4.33 (d, 1H, Jab=16), 3.25 (t, 1H, J=6.0), 2.69 (s, 3H), 2.63 (s, 2H), 2.20 (s, 6H), 1.95 (m, 1H), 1.60 (m, 2H), 0.98 (d, 3H, J=7.0), 0.94 (d, 3H, J=7.0).

reactant | (2R)-2-[N-(4-Chlorobenzenesulfonyl)-N-(4-methylaminomethyl-benzyl)-amino]-4-methyl-pentanoic acid amide | 0.17 mmol, 75 mg | ClC1=CC=C(C=C1)S(=O)(=O)N(CC1=CC=C(C=C1)CNC)[C@@H](C(=O)N)CC(C)C | C21H28ClN3O3S
reactant | 1-hydroxybenzotriazole | 0.17 mmol, 24 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-[3-(dimethylamino)propyl]-3-ethylcarbodiimide hydrochloride | 0.17 mmol, 33 mg | Cl.CN(CCCN=C=NCC)C
solvent | CH2Cl2 | 3 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
product | (2R)-2-[N-(4-Chlorobenzenesulfonyl)-N-(4-{[(2-dimethylamino-acetyl)-methyl-amino ]-methyl}-benzyl)-amino]-4-methyl-pentanoic acid amide | 61 mg, 68% yield | ClC1=CC=C(C=C1)S(=O)(=O)N(CC1=CC=C(C=C1)CN(C)C(CN(C)C)=O)[C@@H](C(=O)N)CC(C)C | C25H35ClN4O4S
